US09422281B2
A 1.5 mL reaction vial was charged with 2,4-difluorophenyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.02 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidin-1-carboxylate (0.2 M solution in 1,4-dioxane, 225 μL, 0.03 mmol), and 1,4-dioxane (100 μL). Potassium carbonate (1 M solution in water, 60 μL, 0.06 mmol) was then added, and the reaction mixture was purged with nitrogen. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.02 M solution in 1,2-dichloroethane, 150 μL, 0.003 mmol) was then added, the reaction was purged with nitrogen and heated to 80° C. on a heater shaker overnight. The reaction was diluted with ethyl acetate and washed with 1 N aqueous sodium hydroxide solution. The aqueous layer was separated and extracted with ethyl acetate (1 mL) and the combined organic layers were concentrated under a stream of nitrogen. The crude product was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated. The residue was taken up in 1,2-dichloroethane (200 μL) and trifluoroacetic acid (100 μL was added. The reactions stirred at room temperature for 2 h. The reaction was concentrated, and diluted with ethyl acetate (0.5 mL) and saturated aqueous sodium bicarbonate solution (0.5 mL). The aqueous layer was separated and extracted with ethyl acetate (1 mL), and the combined organic layers were concentrated under a stream of nitrogen and vacuum. The crude product was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated to afford 2,4-difluorophenyl (S)-4-acetyl-3-methyl-7-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 496 [M+H]+.

reactant | 2,4-difluorophenyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.02 mmol | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1=C(C=C(C=C1)F)F)C | C18H15BrF2N2O3
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidin-1-carboxylate | 0.03 mmol, 0.2 M, 225 μL | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | Potassium carbonate | 0.06 mmol, 1 M, 60 μL | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.003 mmol, 0.02 M, 150 μL | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 100 μL | O1CCOCC1 | C4H8O2
product | 2,4-difluorophenyl (S)-4-acetyl-3-methyl-7-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1CCNCC1)C(=O)OC1=C(C=C(C=C1)F)F)C | C26H27F2N5O3
